US04363807
Acetic anhydride (20 ml.) was added to a solution of diphenylmethyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate (10.0 g.) in dimethylsulfoxide (20 ml.), and stirred at room temperature for 15 hours. The resultant solution was poured into a solution of water (400 ml.) and ethyl acetate (400 ml.). The organic layer was separated and adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate. The organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride in turn, and dried over magnesium sulfate. The solution was concentrated under reduced pressure to give diphenylmethyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate (5.3 g.).

reactant | Acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diphenylmethyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate | 10.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H28N2O5S
reactant | water | 400 ml | O | H2O
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | diphenylmethyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate | 5.3 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H28N2O6S
